US07732435B2
3-(4-Chlorophenyl)-7,8-difluoro-2-isopropyl-chromen-4-one
A mixture of 2-(4-chlorophenyl)-1-(3,4-difluoro-2-hydroxy-phenyl)-4-methyl-pentane-1,3-dione (3.65 g, 10.3 mmol) in acetic acid (36 ml) and concentrated HCl solution (2 ml) is stirred at 140° C. for 3 h. The reaction mixture is cooled to room temperature, poured onto ice-water and extracted with methylene chloride. The organic layer is washed with saturated sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and evaporated to dryness in vacuo to afford the title compound as a brown solid.

reactant | 2-(4-chlorophenyl)-1-(3,4-difluoro-2-hydroxy-phenyl)-4-methyl-pentane-1,3-dione | 10.3 mmol, 3.65 g | ClC1=CC=C(C=C1)C(C(=O)C1=C(C(=C(C=C1)F)F)O)C(C(C)C)=O | C18H15ClF2O3
solvent | acetic acid | 36 ml | C(C)(=O)O | C2H4O2
solvent | HCl | 2 ml | Cl | ClH
product | 3-(4-Chlorophenyl)-7,8-difluoro-2-isopropyl-chromen-4-one | ClC1=CC=C(C=C1)C1=C(OC2=C(C(=CC=C2C1=O)F)F)C(C)C | C18H13ClF2O2
